US04931434
Ethyl 1-(2-Hydroxyethyl)-1,2,3-triazole-4-carboxylate
A solution of ethanolamine (60 ml, 1 mole) in methanol (320 ml) at 5° was treated with formic acid until a pH of 5 was obtained. A solution of ethyl α-formyldiazoacetate (crude, approximately 0.3 mole) in methanol (320 ml) was then added and the mixture stirred at room temperature for two days. The mixture was then evaporated, chloroform (1 liter), then water (200 ml) was added and the mixture was treated with sodium bicarbonate until a pH of 7 was reached. The phases were separated and the aqueous phase saturated with sodium chloride and extracted with chloroform (6 x 300 ml). The combined organic phases were dried (MgSO4), filtered and evaporated. The residue was then dissolved in toluene (approximately 100 ml). The resulting crystalline solid was filtered, washed with ether and dried to provide the title compound (41.6 g) as a solid; λmax (nujol) 3320, 3140, 1725 cm-1 ; δ (CDCl3), 1.38 (3H, t, J 7.5Hz), 4.00-4.80 (7H, m, becomes 6H, m on D2O exch), 8.40 (1H, s). This material was pure enough for further synthetic progression.

reactant | ethanolamine | 1 mole, 60 ml | C(O)CN | C2H7NO
reactant | formic acid | C(=O)O | CH2O2
reactant | ethyl α-formyldiazoacetate | approximately 0.3 mole | C(=O)C(C(=O)OCC)=[N+]=[N-] | C5H6N2O3
solvent | methanol | 320 ml | CO | CH4O
solvent | methanol | 320 ml | CO | CH4O
product | Ethyl 1-(2-Hydroxyethyl)-1,2,3-triazole-4-carboxylate | 41.6 g | OCCN1N=NC(=C1)C(=O)OCC | C7H11N3O3
